US07504399B2
Triethyl amine (2 ml) was added into a solution of 2-(4-fluoro-1H-indol-3-yl)-2-oxoacetyl chloride (284 mg) and 2-(phenyl(piperazin-1-yl)methylene)malononitrile (300 mg) in dry THF (20 ml). After 16 hours, the reaction mixture was partitioned between saturated NaHCO3 (20 ml) and EtOAc (20 ml), and the aqueous phase was extracted with EtOAc (3×20 ml). Then the combined organic layer was dried over MgSO4 and concentrated to offer a residue which was purified using Shimadzu automated preparative HPLC System to afford 2-((4-(2-(4-fluoro-1H-indol-3-yl)-2-oxoacetyl)piperazin-1-yl)(phenyl)methylene)malononitrile.

reactant | Triethyl amine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-fluoro-1H-indol-3-yl)-2-oxoacetyl chloride | 284 mg | FC1=C2C(=CNC2=CC=C1)C(C(=O)Cl)=O | C10H5ClFNO2
reactant | 2-(phenyl(piperazin-1-yl)methylene)malononitrile | 300 mg | C1(=CC=CC=C1)C(=C(C#N)C#N)N1CCNCC1 | C14H14N4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-((4-(2-(4-fluoro-1H-indol-3-yl)-2-oxoacetyl)piperazin-1-yl)(phenyl)methylene)malononitrile | FC1=C2C(=CNC2=CC=C1)C(C(=O)N1CCN(CC1)C(=C(C#N)C#N)C1=CC=CC=C1)=O | C24H18FN5O2
